US05028617
5-(2-Ethoxyethoxy)-2-methylpyridine
A solution of 994 g (18.4 mmol) of sodium methylate in 20 ml of abs. methanol is added dropwise to a solution of 2 g (18.4 mmol) of 5-hydroxy-2-methylpyridine in 20 ml of abs. methanol. The mixture is stirred for 5 minutes and then a solution of 5.83 g (23.9 mmol) of (2-ethoxy)ethyl p-toluenesulphonate in 15 ml of abs. methanol is added. The mixture is heated under reflux for 72 hours. It is evaporated to dryness, the residue is taken up in ethyl acetate and washed with saturated NaCl solution. Drying over sodium sulphate and evaporation result in 2.1 g (70% of theory) of a pale yellow oil.

reactant | sodium methylate | 18.4 mmol, 994 g | C[O-].[Na+]
reactant | 5-hydroxy-2-methylpyridine | 18.4 mmol, 2 g | OC=1C=CC(=NC1)C | C6H7NO
reactant | (2-ethoxy)ethyl p-toluenesulphonate | 23.9 mmol, 5.83 g | C1(=CC=C(C=C1)S(=O)(=O)OCCOCC)C | C11H16O4S
solvent | methanol | CO | CH4O
product | 5-(2-Ethoxyethoxy)-2-methylpyridine | C(C)OCCOC=1C=CC(=NC1)C | C10H15NO2
